US04552866
(B) N-[N-[(3S)-3-Amino-2-hydroxybutyl]-L-phenylalanyl]-L-leucine, dihydrochloride (slower isomer)
A solution of N-[N-[(3S)-3-[[(t-butyloxy)carbonyl]amino]-2-hydroxybutyl]-L-phenylalanyl-L-leucine, t-butyl ester (slower isomer) (0.27 g, 0.52 mmol) in 20 ml of 1.3N hydrogen chloride in acetic acid was allowed to stir for 2 hours at room temperature, during which time a white precipitate separated. The mixture was concentrated under reduced pressure to approximately one third of the original volume, then diluted with ether and filtered yielding 185 mg of the title compound as a white solid, melting point 236°-239° C. (with slow decomposition >210° C.). Analysis by 400 MHz 1H-NMR revealed the presence of a small amount (<5%) of the faster isomer.

reactant | N-[(3S)-3-[[(t-butyloxy)carbonyl]amino]-2-hydroxybutyl]-L-phenylalanyl-L-leucine, t-butyl ester | C(C)(C)(C)OC(=O)N[C@H](C(CN[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)OC(C)(C)C)O)C | C28H47N3O6
reactant | hydrogen chloride | 1.3N, 20 ml | Cl | ClH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-[N-[(3S)-3-Amino-2-hydroxybutyl]-L-phenylalanyl]-L-leucine, dihydrochloride | 185 mg | Cl.Cl.N[C@H](C(CN[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)O)O)C | InChI=1S/C19H31N3O4.2ClH/c1-12(2)9-16(19(25)26)22-18(24)15(21-11-17(23)13(3)20)10-14-7-5-4-6-8-14;;/h4-8,12-13,15-17,21,23H,9-11,20H2,1-3H3,(H,22,24)(H,25,26);2*1H/t13-,15-,16-,17?;;/m0../s1
